US08236813B2
(1) 1-(2-Amino-4,6-dichloropyrimidin-5-yl)-3-buten-1-ol
Indium powder (0.23 g) and zinc powder (1.31 g) were added to a mixture composed of commercially available 2-amino-4,6-dichloropyrimidine-5-carboaldehyde (1.92 g) and N,N-dimethylformamide (20 ml). Thereafter, sodium iodide (0.15 g) and allyl bromide (1.73 ml) were added to the mixture at room temperature. The resulting mixture was stirred for 3 hours. Thereafter, the reaction mixture was filtered through celite, and ethyl acetate was then added to the filtrate. The resulting mixture was successively washed with 1 N hydrochloric acid and a saturated saline in this order. The organic layer was dried over anhydrous sodium sulfate, and was then concentrated. Thereafter, hexane was added to the residue, and a precipitate was then collected by filtration, so as to obtain the above title compound (1.75 g) as a solid.

reactant | Indium | 0.23 g | [In] | In
reactant | 2-amino-4,6-dichloropyrimidine-5-carboaldehyde | 1.92 g | NC1=NC(=C(C(=N1)Cl)C=O)Cl | C5H3Cl2N3O
reactant | sodium iodide | 0.15 g | [I-].[Na+]
reactant | allyl bromide | 1.73 ml | C(C=C)Br | C3H5Br
catalyst | zinc | 1.31 g | [Zn] | Zn
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(2-Amino-4,6-dichloropyrimidin-5-yl)-3-buten-1-ol | 1.75 g | NC1=NC(=C(C(=N1)Cl)C(CC=C)O)Cl | C8H9Cl2N3O
